US07816522B2
(1e) 2-(3-{(2-fluoro-4,5-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid
After adding 240 mg of 2-hydrazinobenzoic acid hydrochloride and 0.295 ml of triethylamine to a solution of 500 mg of [2-(2-fluoro-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester in 10 ml of N,N-dimethylformamide (hereinafter, “DMF”), the mixture was stirred at 85° C. for 21 hours under a nitrogen atmosphere. After cooling the reaction mixture to room temperature, dilute hydrochloric acid (pH 3-4) was added and extraction was performed with ethyl acetate. The organic layer was then washed with dilute hydrochloric acid (pH 3-4) and saturated brine, and dried over anhydrous sodium sulfate. The desiccating agent was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give the title compound (548 mg) as a light yellow solid.

reactant | 2-hydrazinobenzoic acid hydrochloride | 240 mg | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | triethylamine | 0.295 ml | C(C)N(CC)CC | C6H15N
reactant | [2-(2-fluoro-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester | 500 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C=C(C(=C1)OC)OC)F)SC)=O | C22H21FN4O5S
reactant | hydrochloric acid | pH 3-4 | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(3-{(2-fluoro-4,5-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid | 548 mg | FC1=C(C=C(C(=C1)OC)OC)C(C1=NN(C(N1)=O)C1=C(C(=O)O)C=CC=C1)=NC1=CC=C(C=C1)C1=NOC(=N1)C | C27H21FN6O6
